US07947826B2
Synthesis of Intermediate (4-n-octylthiophthalonitrile (A-1))
While cooling a reaction vessel on a water bath, were mixed 17.3 g (100 mmol) of 4-nitrophthalonitrile, 15.7 g (110 mmol) of 1-octanethiol, 20.7 g (150 mmol) of potassium carbonate and 80 ml of N,N-dimethylacetamide. The resultant mixture was stirred for 7 hours at room temperature and then for 1 hour at 40° C. The thus-obtained reaction mixture was poured into 600 ml of a 3% hydrochloric acid. The resultant precipitates were separated by a filtration under reduced pressure, and then washed with water and dried. Thereafter, by recrystallization from a mixed solvent of methanol (190 ml)/water (9 ml), there was obtained 18.5 g (Yield: 68%) of white powder synthesis intermediate (A-1) (Melting point=37 to 38° C.).

reactant | 4-nitrophthalonitrile | 100 mmol, 17.3 g | [N+](=O)([O-])C=1C=C(C(C#N)=CC1)C#N | C8H3N3O2
reactant | 1-octanethiol | 110 mmol, 15.7 g | C(CCCCCCC)S | C8H18S
reactant | potassium carbonate | 150 mmol, 20.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylacetamide | 80 ml | CN(C(C)=O)C | C4H9NO
product | 4-n-octylthiophthalonitrile | 18.5 g, Yield: 68% | C(CCCCCCC)SC=1C=C(C(C#N)=CC1)C#N | C16H20N2S
